US09119868B2
Step 5: (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-(difluoromethyl)phenyl)boronic acid
A solution of 6-(N-(4-bromo-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.20 g, 0.33 mmol), potassium acetate (0.13 g, 1.32 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.027 g, 0.033 mmol), and bis(pinacolato)diboron (0.25 g, 0.99 mmol) in 1,4-dioxane (4.12 ml) was degassed, purged with nitrogen and heated at 80° C. for 3 h 45 mins. The reaction mixture was diluted with EtOAc and water, filtered through celite, and evaporated. The brown residue was dissolved in 10 mL THF, and 5 mL 1M HCl. NaIO4 (0.56 g, 2.63 mmol) was added and the suspension was stirred for 1 h and diluted with EtOAc and water. The organic layer was washed with water, brine, dried (Na2SO4), filtered, evaporated and purified by reverse phase chromatography (5-100% CH3CN/H2O (0.1% formic acid)) to afford the title compound (0.085 g, 45%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.90-7.97 (m, 2H), 7.87 (s, 1H), 7.43-7.61 (m, 3H), 7.30 (s, 1H), 7.21-7.29 (m, 2H), 6.65-7.01 (m, 1H), 3.33 (s, 3H), 2.94 (s, 3H), 2.08-2.21 (m, 1H), 0.35-1.10 (m, 4H). LCMS (m/z, ES+)=573.3 (M+H+).

reactant | 6-(N-(4-bromo-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.33 mmol, 0.20 g | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C(F)F | C27H22BrF3N2O4S
reactant | potassium acetate | 1.32 mmol, 0.13 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.99 mmol, 0.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 4.12 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.033 mmol, 0.027 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-(difluoromethyl)phenyl)boronic acid | 0.085 g, 45% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B(O)O)C(F)F | C27H24BF3N2O6S
